US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-2-fluoro-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-amino-5-chloro-phenyl)-phenyl-methanone and 2-fluoro-benzenesulfonyl chloride. 1H NMR (CDCl3): δ (ppm): 6.88–6.93 (m, 1H), 7.16–7.20 (m, 1H), 7.38 (d, J=6.4 Hz, 1H), 7.41–7.46 (m, 4H), 7.52 (m, 2H), 7.58–7.62 (m, 1H), 7.70 (d, J=8.8 Hz, 1H), 7.81–7.85 (m, 1H), 10.10 (s, 1H). MS: m/z 390.0 (M++1).

reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 2-fluoro-benzenesulfonyl chloride | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-(2-Benzoyl-4-chloro-phenyl)-2-fluoro-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=C(C=CC=C1)F | C19H13ClFNO3S
